US08492378B2
2-[3-(1-ethyl-1H-pyrazol-4-yl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
In the same manner as in Example 1 and using 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and using iodoethane instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 80%) was obtained as colorless crystals.

reactant | 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C=2C=NNC2)C1 | C14H10N4O2
reactant | iodoethane | ICC | C2H5I
product | 2-[3-(1-ethyl-1H-pyrazol-4-yl)-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | yield 80% | C(C)N1N=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C16H14N4O2
